US07485283B2
6f. 2-(4-tert-butylbenzyl)thio-3-tosyloxymethyl chromen-4-one
Into a 25 mL round bottom flask is introduced 2-(4-tert-butylbenzyl)thio-3-hydroxymethyl chromen-4-one (3 g, 8.47 mmol) and this is dissolved in dichloromethane (10 mL). Toluenesulfonyl chloride (12.7 mmol)and triethylamine (12.7 mmol) are then added to it and the reaction mixture is stirred for 4 hours at room temperature. The solvent is then removed in vacuo and the residue obtained is purified by silica gel flash chromatography (ethyl acetate:hexanes) to get the above-mentioned compound.

reactant | 2-(4-tert-butylbenzyl)thio-3-hydroxymethyl chromen-4-one | 8.47 mmol, 3 g | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC=C3C(C2CO)=O)C=C1 | C21H22O3S
reactant | Toluenesulfonyl chloride | 12.7 mmol | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 12.7 mmol | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2-(4-tert-butylbenzyl)thio-3-tosyloxymethyl chromen-4-one | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC=C3C(C2COS(=O)(=O)C2=CC=C(C)C=C2)=O)C=C1 | C28H28O5S2
